US07205302B2
3-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}phenol
To a suspension of 0.91 g of 1-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-3-(methoxymethoxy)benzene in 10 ml of methanol, 2 ml of a 18% hydrogen chloride-methanol solution was added. After stirring at room temperature for 2 hours, 1 ml of a 18% hydrogen chloride-methanol solution was further added and the mixture was continuously stirred for one hour. After the solvent was evaporated under reduced pressure, the reaction solution was neutralized by adding an aqueous saturated sodium hydrogen carbonate solution and then extracted with ethyl acetate. The crude crystal was washed with diethyl ether and then dried to obtain 0.66 g of the desired compound as a colorless crystal having a melting point of 156 to 157° C.

reactant | 1-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}-3-(methoxymethoxy)benzene | 0.91 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C)CC1=CC(=CC=C1)OCOC | C26H25N3O2
reactant | hydrogen chloride methanol | Cl.CO
solvent | methanol | 10 ml | CO | CH4O
product | 3-{[N-(5,6-diphenylpyrazin-2-yl)-N-methylamino]methyl}phenol | 0.66 g | C1(=CC=CC=C1)C=1N=CC(=NC1C1=CC=CC=C1)N(C)CC=1C=C(C=CC1)O | C24H21N3O
